Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Cath

 
History of Present Illness:
___ with morbid obesity and no other past medical history 
presenting as a transfer for N STEMI. Patient states that he 
awoke this morning with slight chest pain and while showering 
developed worsening pressure tight chest pain, substernal, 
radiating to left arm, associated with lightheadedness. Not 
associated with shortness of breath, sweating. Pain better when 
lying down, non-pleuritic. Was brought to ___, where he was 
tachycardic to 128, normotensive. He was given aspirin, SL nitro 
X2, which relieved his symptoms and started on heparin gtt. 
Initial troponin negative, second troponin 3.3. Negative 
d-dimer, negative chest x-ray. Patient states that he has never 
had symptoms like this in the past, and has never had chest pain 
in the past, even with exertion. 5-pack-year smoking history, 
currently ___. No drug use besides hx of occasional marijuana 
in the past. Mother died from MI at ___.  
 
 In the ED, initial VS were: 97.4 108 151/80 16 97% RA  
 Exam notable for:  
 Tachycardic, normotensive  
 Comfortable, morbidly obese  
 Tachycardic, regular rhythm, no murmurs  
 CTABL  
 1+ pitting edema to mid-shins  
 Labs showed:  
 Trop 1.16 -> 1.09  
 ___ AGap=13  
 --------------  
 4.4 28 1.0  
 EKG: NSR @ 99. S1Q3T3. RBBB. No ischemic changes  
 OSH:  
 Negative initial trop, then second with trop-I of 3.39  
 Negative D-Dimer  
 Imaging showed:  
 CHA TTE:  
 CONCLUSIONS  
 -----------  
 1. Technically limited study, compromised by the patient's 
morbid obesity at 5'7", 308 lb. The test was performed urgently 
in the ED.  
 2. LV ejection fraction is 70%.  
 3. There is a focal area of akinesis in the apex.  
 4. Neither the atrial nor the valves could be adequately 
imaged.  
 
 Patient received: heparin gtt, metop tartrate 25mg  
 
 Cardiology was consulted: Trend troponins, likely will need 
cath  
 Transfer VS were: 89 137/87 21 98% RA  
 On arrival to the floor, patient corroborates the history as 
above. He reports that he is chest pain free. No chest pain 
since he was given the ___ nitro at OSH.
 
Past Medical History:
Hx of active TB s/p treatment ___ 
 
Social History:
___
Family History:
Mother passed away from MI at ___ yo
 
Physical Exam:
ADMISSION EXAM:
===============
VS: 98.1 ___ 18 96% RA  
GENERAL: pleasant, obese, in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: unable to assess JVP due to thick neck  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nontender, nondistended.  
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM:
===============
VS: 98.5 123/85 80 18 95 Ra 
GENERAL: pleasant, obese, in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: unable to assess JVP due to thick neck  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nontender, nondistended.  
EXTREMITIES: no cyanosis, clubbing, or edema, R radial access 
site w/o hematoma, distal pulses and sensation intact 
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS:
===============

___ 05:20PM BLOOD WBC-14.4* RBC-6.16* Hgb-15.4 Hct-47.4 
MCV-77* MCH-25.0* MCHC-32.5 RDW-13.5 RDWSD-36.9 Plt ___
___ 05:20PM BLOOD Neuts-74.8* ___ Monos-4.6* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-10.78* AbsLymp-2.82 
AbsMono-0.66 AbsEos-0.02* AbsBaso-0.04
___ 05:20PM BLOOD ___ PTT-52.5* ___
___ 05:20PM BLOOD Plt ___
___ 05:20PM BLOOD Glucose-88 UreaN-14 Creat-1.0 Na-142 
K-4.4 Cl-101 HCO3-28 AnGap-13
___ 05:20PM BLOOD cTropnT-1.16*
___ 09:31PM BLOOD cTropnT-1.09*
___ 05:20PM BLOOD Cholest-283*
___ 05:20PM BLOOD %HbA1c-5.3 eAG-105
___ 05:20PM BLOOD Triglyc-236* HDL-32* CHOL/HD-8.8 
LDLcalc-204*

STUDIES/IMAGING:
================
TTE:
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thicknesses and 
cavity size are normal. There is mild regional left ventricular 
systolic dysfunction with focal inferoapical hypokinesis. The 
remaining segments contract normally (LVEF = 55-60 %). No masses 
or thrombi are seen in the left ventricle. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. There 
is no aortic valve stenosis. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
an anterior space which most likely represents a prominent fat 
pad. 

IMPRESSION: Mild regional left ventricular systolic dysfunction 
suggestive of either PDA or distal LAD lesion. 

CORONARY ANGIOGRAM:
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal
* Left Anterior Descending
The LAD had an ulcerated 80% mid lesion
* Circumflex
The Circumflex is normal
* Right Coronary Artery
The RCA is normal.

Interventional Details
The left main was engaged with a ___ Fr XBLAD 3.5 guide. The LAD 
lesion was crossed with a Prowater
wire, dilated with a 3.0 balloon and stented with a 3.5x18 Onyx 
___ to 3.5 mm at 18 at.m
There was no residual, normal flow.
Intra-procedural Complications: None
Impressions:
Successful DES of LAD
Recommendations
Continue aspirin uninterrupted indefinitely, clopidogrel ___ year

DISCHARGE LABS:
===============

___ 06:10AM BLOOD Hct-48.2 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-36.6* ___
___ 06:10AM BLOOD Glucose-83 UreaN-13 Creat-0.9 Na-141 
K-4.5 Cl-101 HCO3-28 AnGap-12
___ 06:10AM BLOOD CK-MB-9 cTropnT-1.02*
___ 06:10AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.3 Cholest-243*
___ 06:10AM BLOOD Triglyc-183* HDL-29* CHOL/HD-8.4 
LDLcalc-177*
 
Brief Hospital Course:
___ year old male with PMHx obesity, active smoker who presents 
for chest pain found to have NSTEMI with LAD lesion.

#NSTEMI
Patient presenting with chest pain with elevated troponin of 
1.16 with peak at 1.76. EKG with S1Q3T3 and IVCD but no ST or 
other T wave changes. D- dimer at OSH negative. Limited TTE done 
at CHA, but did reveal focal akinesis at apex, repeat echo ___ 
showed focal anteroinferior hypokinesis. Started on heparin gtt, 
ASA, metoprolol 25 q6h, atorvastatin 80mg. Cholesterol levels 
elevated, HDL low. Cath ___ showed 80% LAD lesion, normal 
coronaries otherwise, 1 DES placed, loaded with Plavix and 
started on 75mg daily. Patient remained chest pain free 
throughout his admission. Patient counseled on smoking cessation 
and diet, nutrition was consulted and provided educational 
information. ___ consulted and evaluated patient prior to 
discharge and recommended outpatient cardiac rehab.

Transitional Issues
===================
[]ASA for life, Plavix for at least one year.
[]Needs OP sleep study, concern for OSA given S1Q3T3 on EKG and 
morbid obesity. 
[]Consider starting ACEi in OP setting
[]Has a reported history of active TB treated in ___, would try 
to obtain records for treatment.
[]Patient will need diet and lifestyle modification counseling, 
and may benefit from outpatient follow up with a nutritionist.
[]Please continue to counsel on smoking cessation, patient 
seemed very motivate to quit at time of discharge
[]Consider referral for outpatient cardiac rehab 
#New: Atorvastatin 80 mg daily, metoprolol succinate 100 mg 
daily, ASA 81 mg daily, Plavix 75 mg daily
#CODE: Full 
#CONTACT: ___ 
 Relationship: SISTER 
 Phone: ___ 
 
___ on Admission:
NONE
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
4.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
=======
NSTEMI

Secondary
=========
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had a mild heart attack

What happened while I was in the hospital?  
-  You were started on medications to help prevent damage to 
your heart
-You had a cardiac catheterization which showed a blockage of 
one of the arteries, so a stent was placed to keep the artery 
open.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix) every day.  
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents, and you may die from 
a massive heart attack.  
-Please do not stop taking either medication without taking to 
your heart doctor.  

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  
 
Followup Instructions:
___